US07727988B2
5-methyl-1-(5-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}pentyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E7)
A mixture of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (41 mg), 1-(4-chloropentyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (Prep11, 50 mg) and TEA (50 μl) in DMF (0.5 mL) was heated at 100° C. overnight. Ammonium chloride was then added and the solution was extracted with dichloromethane. The organic phase was dried and concentrated in vacuo. The crude product was purified by a SCX cartridge followed by a preparative HPLC [column: ABZ plus 20×100 mm, 5 uM, mobile phase A: H2O+0.1% formic acid, mobile phase B: acetonitrile+0.1% formic acid, gradient: from 1 to 20% (B) in 10 min, flow rate: 20 mL/min, UV wavelength range: 210-350 nm, ionization: ES+, mass range: 100-900 amu (ES+)], to give 29 mg of the title compound which was further purified by flash chromatography eluting with DCM/MeOH/NH4OH from 99/1/0.1, to 98/2/0.1, to 97/3/0.1 to give the free base of the title compound (25 mg).

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 41 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 1-(4-chloropentyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 50 mg | ClC(CCCN1C(NC(C(=C1)C)=O)=O)C | C10H15ClN2O2
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-methyl-1-(5-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}pentyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 29 mg | Cl.CC=1C(NC(N(C1)CCCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C22H26F3N3O2.ClH/c1-15-12-28(20(30)26-19(15)29)10-4-2-3-9-27-13-18-11-21(18,14-27)16-5-7-17(8-6-16)22(23,24)25;/h5-8,12,18H,2-4,9-11,13-14H2,1H3,(H,26,29,30);1H/t18-,21+;/m0./s1
